US07582760B2
1-(3-Fluoro-benzyl)-3,3-dimethyl-4-piperazin-1-yl-1,3-dihydro-indol-2-one
4-[1-(3-Fluoro-benzyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (260 mg) was dissolved in 3 mL of EtOH and 0.5 mL of 2.0 N HCl/EtOH was added. After heating for 30 minutes at reflux, the solution was cooled and diethyl ether was added to precipitate out 1-(3-Fluoro-benzyl)-3,3-dimethyl-4-piperazin-1-yl-1,3-dihydro-indol-2-one as a hydrochloride salt (121 mg). MS: 354 (M+H)+.

reactant | 4-[1-(3-Fluoro-benzyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 260 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)(C)C | C26H32FN3O3
reactant | HCl EtOH | 2.0 N, 0.5 mL | Cl.CCO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-(3-Fluoro-benzyl)-3,3-dimethyl-4-piperazin-1-yl-1,3-dihydro-indol-2-one | FC=1C=C(CN2C(C(C3=C(C=CC=C23)N2CCNCC2)(C)C)=O)C=CC1 | C21H24FN3O
